US04218472
2-Dimethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol
Ethyl chloroformate (0.7 g) and sodium hydroxide (0.3 g) dissolved in water (10 ml) are added to 2-methylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]-ethanol (1.3 g) in chloroform (25 ml). The mixture is stirred vigorously for 2 hours at about 10° C. The chloroform layer is separated, washed with water and dried. The solvent is removed in vacuo and the residual crude 2-(N-ethoxycarbonyl-N-methylamino)-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol is dissolved in tetrahydrofuran (75 ml) and added to lithium aluminium hydride (2.0 g) in tetrahydrofuran (25 ml). The mixture is refluxed for 3 hours, and the excess of hydride is destroyed with a slight excess of saturated aqueous sodium sulphate solution. The inorganic salt precipitate is filtered off and washed with tetrahydrofuran. The combined filtrate and washings are dried over sodium sulphate and the solvent is removed under reduced pressure. The crude title compound is dissolved in acetonitrile and treated with a slight excess of oxalic acid dissolved in acetonitrile. The slowly depositing hydrogen oxalate is collected by filtration and recrystallization from acetonitrile; m.p. 133°-134° C.

reactant | Ethyl chloroformate | 0.7 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
reactant | 2-methylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]-ethanol | 1.3 g | CNCC(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C16H21NO
solvent | water | 10 ml | O | H2O
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Dimethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | CN(CC(O)C1=CC2(C3=CC=CC=C13)CCCC2)C | C17H23NO
